US08980897B2
21.2: Methyl (S)-3-tert-butoxycarbonylamino-2-[4-(4-methylbenzyl)piperazin-1-yl]propanoate
In a manner analogous to example 17.4, using 5.1 g (20 mmol) of commercial methyl (S)-2-amino-3-tert-butoxycarbonylaminopropanoate hydrochloride and 4.9 g (20 mmol) of bis(2-chloroethyl)(4-methylbenzyl)amine, 4.1 g (53%) of methyl (S)-3-tert-butoxycarbonylamino-2-(4-(4-methylbenzyl)piperazin-1-ylpropanoate are obtained in the form of an oil.

reactant | methyl (S)-2-amino-3-tert-butoxycarbonylaminopropanoate hydrochloride | 20 mmol, 5.1 g | Cl.N[C@H](C(=O)OC)CNC(=O)OC(C)(C)C
reactant | bis(2-chloroethyl)(4-methylbenzyl)amine | 20 mmol, 4.9 g | ClCCN(CC1=CC=C(C=C1)C)CCCl | C12H17Cl2N
reactant | 4-(4-methylbenzyl)piperazin-1-ylpropanoate | CC1=CC=C(CN2CCN(CC2)C(C(=O)[O-])C)C=C1
product | Methyl (S)-3-tert-butoxycarbonylamino-2-[4-(4-methylbenzyl)piperazin-1-yl]propanoate | C(C)(C)(C)OC(=O)NC[C@@H](C(=O)OC)N1CCN(CC1)CC1=CC=C(C=C1)C | C21H33N3O4
